US08133908B2
Description 26: (1S,4S,6S)-4-(hydroxymethyl)-3-azabicyclo[4.1.0]heptan-2-one (D26)
(5aS,6aS,7aS)-3,3-dimethylhexahydro-5H-cyclopropa[d][1,3]oxazolo[3,4-a]pyridin-5-one D25 (3.56 g) was dissolved in HCl (25 ml, 150 mmol) (6 M in water) into a 250 ml-round bottomed flask and the mixture was stirred at 40° C.: after 4 hours the reaction was complete. The solvent was evaporated at reduced pressure using a rotavapor (bath temperature: 40° C.). The oily residue was stripped with toluene and the residue dried under high vacuum for 3 hours, obtaining the title compound D26 as white solid (2.843 g). UPLC (Acid IPQC): rt=0.31 minutes, peak observed: 142 (M+1). C7H11NO2 requires 141. 1H NMR (500 MHz, DMSO-d6) d ppm 0.56-0.68 (m, 1 H) 0.93-1.05 (m, 1 H) 1.30-1.39 (m, 1 H) 1.39-1.48 (m, 1 H) 1.57-1.67 (m, 1 H) 1.98-2.09 (m, 1 H) 3.17-3.29 (m, 2 H) 3.31-3.40 (m, 1 H) 6.89-7.13 (m, 1 H)

reactant | (5aS,6aS,7aS)-3,3-dimethylhexahydro-5H-cyclopropa[d][1,3]oxazolo[3,4-a]pyridin-5-one | CC1(OC[C@H]2N1C([C@@H]1[C@H](C2)C1)=O)C | C10H15NO2
reactant | HCl | 150 mmol, 6 M, 25 ml | Cl | ClH
product | (1S,4S,6S)-4-(hydroxymethyl)-3-azabicyclo[4.1.0]heptan-2-one | OC[C@H]1NC([C@H]2C[C@H]2C1)=O | C7H11NO2
